US07091227B2
4-([(6-Bromo-1,3-benzothiazol-2-yl)amino]carbonylamino)butanoic acid
To a solution of ethyl 4-([(6-bromo-1,3-benzothiazol-2-yl)amino]carbonylamino)-butanoate (175 mg, 0.453 mmol) in THF/EtOH (1/1, 3 mL) was added 2 M NaOH (2.26 mL, 4.53 mmol). The reaction mixture was stirred at about 20° C. for about 3 hrs then 2 M HCl was added until pH<6 and a white precipitate was formed. The precipitate was filtered off and washed with H2O. 25 mg (15%) pure product was isolated.

reactant | ethyl 4-([(6-bromo-1,3-benzothiazol-2-yl)amino]carbonylamino)-butanoate | 0.453 mmol, 175 mg | BrC1=CC2=C(N=C(S2)NC(=O)NCCCC(=O)OCC)C=C1 | C14H16BrN3O3S
reactant | NaOH | 4.53 mmol, 2 M, 2.26 mL | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | THF EtOH | 3 mL | C1CCOC1.CCO
product | 4-([(6-Bromo-1,3-benzothiazol-2-yl)amino]carbonylamino)butanoic acid | 25 mg, 15% | BrC1=CC2=C(N=C(S2)NC(=O)NCCCC(=O)O)C=C1 | C12H12BrN3O3S
